* C:\Users\Jimbles\ScouseTom\src\schematics\Output_Impedance_Tester\sim\TIA_example.asc
R1 N002 0 1e9 tol=1 pwr=0.1
I1 0 N002 100µ AC 100u 0
R2 TIA_out N001 1000
XU1 N001 0 TIA_out opamp Aol=100K GBW=10Meg
R3 N001 N002 {R}
.op
.lib opamp.sub
.step param R 1 10000 500
.backanno
.end
